US07074809B2
(S)-2-[3-(3-Cyano-phenyl)-[1,2,4]oxadiazol-5-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (698 mg, 44%) was prepared according to the procedure in Example 25 from (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (1.00 g, 4.66 mmol) with isobutyl chloroformate (0.64 mL, 4.9 mmol) and triethylamine (1.6 mL, 11.5 mmol) in THF (14 mL). Then 3-cyano-N-hydroxy-benzamidine (753 mg, 4.67 mmol) and DMF (15 mL) were added and the mixture was heated at 120° C. for 18 h.

reactant | (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 4.66 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | isobutyl chloroformate | 4.9 mmol, 0.64 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 11.5 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | 3-cyano-N-hydroxy-benzamidine | 4.67 mmol, 753 mg | C(#N)C=1C=C(C(=N)NO)C=CC1 | C8H7N3O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (S)-2-[3-(3-Cyano-phenyl)-[1,2,4]oxadiazol-5-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 698 mg, 44% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1=NC(=NO1)C1=CC(=CC=C1)C#N | C18H20N4O3
